US05366987
(c) 1-Phenyl-2,4-hexadecanedione
To a cold (-60° C.), stirred solution of oxalyl chloride (32 mL, 0.37 mol) in dichloromethane (980 mL) was added over 10 minutes a solution of dimethylsulfoxide (52 mL, 0.73 mol) in CH2Cl2 (450 mL). Stirred 2 minutes. To the mixture was added a solution of (±)-2-hydroxy-1-phenyl-4-hexadecanone (105.6 g, 0.3176 mol) in CH2Cl2 (900 mL) over 17 minutes. Stirred 20 minutes. To the mixture was added triethylamine (230 mL, 1.65 mol) over 5 minutes. Stirred 5 minutes. The mixture was allowed to warm to -20° C. and water (1 L) was added. Stirred 30 minutes. The organic layer was washed (1M HCl and saturated NaCl), dried (Na2SO4), and rotoevaporated to an oil. The oil was chromatographed on silica gel using petroleum ether-acetone (45:1) to give a pale yellow oil; yield 67.6 g (64.5%).

reactant | oxalyl chloride | 0.37 mol, 32 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylsulfoxide | 0.73 mol, 52 mL | CS(=O)C | C2H6OS
reactant | (±)-2-hydroxy-1-phenyl-4-hexadecanone | 0.3176 mol, 105.6 g | OC(CC1=CC=CC=C1)CC(CCCCCCCCCCCC)=O | C22H36O2
reactant | triethylamine | 1.65 mol, 230 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 980 mL | ClCCl | CH2Cl2
solvent | CH2Cl2 | 450 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 900 mL | C(Cl)Cl | CH2Cl2
solvent | water | 1 L | O | H2O
product | 1-Phenyl-2,4-hexadecanedione | C1(=CC=CC=C1)CC(CC(CCCCCCCCCCCC)=O)=O | C22H34O2
